US07465809B2
4-Amino-6-trifluoromethyl-isophthalonitrile
4-Amino-5-iodo-2-trifluoromethyl-benzonitrile (1.5 mmoL), CuCN (1.7 mmoL) in NMP (10 mL) was heated at 150° C. for 4 hrs. The reaction mixture was passed through a pad of Celite. The reaction mixture was then partitioned between ethyl acetate and water. The organic layer was washed with water, then brine, dried over anhydrous Na2SO4, filtered and concentrated to yield the title compound as a brown solid.

reactant | 4-Amino-5-iodo-2-trifluoromethyl-benzonitrile | NC1=CC(=C(C#N)C=C1I)C(F)(F)F | C8H4F3IN2
reactant | CuCN | C(#N)[Cu]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 4-Amino-6-trifluoromethyl-isophthalonitrile | NC1=C(C=C(C#N)C(=C1)C(F)(F)F)C#N | C9H4F3N3
